US06103708
4-{4-[2-(4-Bromo-benzyl)-4,5-dimethyl-thiophene-3-carbonyl]-2-cyclopentyl-phenoxysulfonyl}-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using [2-(4-bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone (1.01 g, 2.14 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (1.01 g, 4.29 mmol). Purification on 2% H3PO4 /MeOH treated silica gel, eluting with a 15 & 25% EtOAc/hexane step gradient followed by crystallization from ether/pet ether gave 0.549 g (38%) of the title compound as a tan solid, mp 165-170° C. 1H NMR (DMSO-d6) δ 1.22-1.32 (m, 2 H), 1.46-1.58 (m, 2 H), 1.61-1.76 (m, 4 H), 1.78 (s, 3 H), 2.26 (s, 3 H), 2.97 (quintet, 1 H), 3.84 (s, 2 H), 6.94 (d, 2 H), 7.23 (d, 1 H), 7.34-7.40 (m, 4 H), 7.50 (dd, 1 H), 7.53 (d, 1 H), 8.00 (d, 1 H). IR (KBr) 3400, 2950, 1680, 1480, 1390 and 1190 cm-1. mass spectrum (-ESI) m/z 667 (M-H). Anal. Calcd. for C32H29BrO7S2 : C, 57.40; H, 4.37; N, 0.00. Found: C, 57.47; H, 4.24; N, 0.08.

reactant | [2-(4-bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone | 2.14 mmol, 1.01 g | BrC1=CC=C(CC=2SC(=C(C2C(=O)C2=CC(=C(C=C2)O)C2CCCC2)C)C)C=C1 | C25H25BrO2S
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 4.29 mmol, 1.01 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-{4-[2-(4-Bromo-benzyl)-4,5-dimethyl-thiophene-3-carbonyl]-2-cyclopentyl-phenoxysulfonyl}-2-hydroxy-benzoic acid | 0.549 g, 38% | BrC1=CC=C(CC=2SC(=C(C2C(=O)C2=CC(=C(OS(=O)(=O)C3=CC(=C(C(=O)O)C=C3)O)C=C2)C2CCCC2)C)C)C=C1 | C32H29BrO7S2
